US04221895
The bis-(m-ethynylphenoxy)-chloro-1,3,5-triazine is prepared by first adding m-ethynylphenol (11.4 g, 0.097 mole) in 20 ml of a 5 N NaOH dropwise to a stirred solution of cyanuric chloride (9.22 g, 0.05 mole) in 50 ml of acetone with stirring at 15°-18° C. After stirring for one hour at this temperature, the resulting mixture is filtered to remove a white solid which is washed with water and dried in vacuum overnight at 35° C. The yield of the product is 16.14 g (yield of 95.8%). The product has a melting point of 121°-125° C. which increases to 127°-128° C. upon one recrystallization from chloroform/heptane. This product is analyzed by NMR and determined to be bis-(m-ethynylphenoxy)-chloro-1,3,5-triazine represented by the formula:

reactant | m-ethynylphenol | 0.097 mole, 11.4 g | C(#C)C=1C=C(C=CC1)O | C8H6O
reactant | NaOH | 5 N | [OH-].[Na+]
reactant | cyanuric chloride | 0.05 mole, 9.22 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | bis-(m-ethynylphenoxy)-chloro-1,3,5-triazine | yield of 95.8% | C(#C)C=1C=C(OC2=NC(=NC(=N2)Cl)OC2=CC(=CC=C2)C#C)C=CC1 | C19H10ClN3O2
